US07700633B2
C. (4S,5R)-3-[(R)-2-(4-Methoxy-2-vinylbenzyl)-butyryl]-4-methyl-5-phenyloxazolidin-2-one
n-BuLi (21.3 mL, 53.3 mmol, 2.5 M in hexane) is added to a solution of diisopropylamine (8.2 mL, 58.1 mmol) in THF (150 mL) at −78° C. and the mixture is stirred at −78° C. for 10 min. A solution of (4S,5R)-3-butyryl-4-methyl-5-phenyloxazolidin-2-one (11.99 g, 48.5 mmol, prepared from (4S,5R)-4-methyl-5-phenyloxazolidin-2-one based on the procedure described in Tetrahedron Letters, 1986, 27, page 3311-3314) in THF (50 mL) is added. The mixture is stirred at −78° C. for 30 min. Finally, a solution of 1-bromomethyl-4-methoxy-2-vinylbenzene (11.1 g, crude) in THF (30 mL) is added. The mixture is stirred at −78° C. for 10 min and warmed to RT over 1 h and is continued to be stirred at RT for 15 h. The mixture is partitioned between EtOAc and sat. NH4Cl solution. The organic extract is dried with MgSO4, concentrated and purified by chromatography to give the title compound as an oil: 1H NMR (CDCl3) δ 0.68 (d, J=7 Hz, 3H), 0.95 (t, J=7 Hz, 3H), 1.52-1.59 (m, 1H), 1.73-1.79 (m, 1H), 2.80-2.85 (m, 1H), 2.98-3.04 (m, 1H), 3.78 (s, 3H), 4.14-4.20 (m, 1H), 4.70-4.75 (m, 1H), 5.34 (dd, J=1.3, 11 Hz, 1H), 5.57 (d, J=7.3 Hz, 1H), 5.63 (dd, J=1.3, 17 Hz, 1H), 6.72 (dd, J=2.5, 8 Hz, 1H), 6.99 (d, J=2.8 Hz, 1H), 7.04 (dd, J=11, 17 Hz, 1H), 7.13 (d, J=8 Hz, 1H), 7.21-7.24 (m, 2H), 7.35-7.40 (m, 3H).

reactant | n-BuLi | 53.3 mmol, 2.5 M, 21.3 mL | [Li]CCCC
reactant | diisopropylamine | 58.1 mmol, 8.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | (4S,5R)-3-butyryl-4-methyl-5-phenyloxazolidin-2-one | C(CCC)(=O)N1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C14H17NO3
reactant | (4S,5R)-4-methyl-5-phenyloxazolidin-2-one | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | 1-bromomethyl-4-methoxy-2-vinylbenzene | 11.1 g | BrCC1=C(C=C(C=C1)OC)C=C | C10H11BrO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-[(R)-2-(4-Methoxy-2-vinylbenzyl)-butyryl]-4-methyl-5-phenyloxazolidin-2-one | COC1=CC(=C(C[C@H](C(=O)N2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)CC)C=C1)C=C | C24H27NO4
